US09029359B2
tert-Butyl (3R,5S)-5-methyl-1-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)piperidin-3-ylcarbamate.
A mixture of tert-butyl (3R,5S)-5-methylpiperidin-3-ylcarbamate (150 mg, 0.7 mmol), 4-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-d]pyrimidine (200 mg, 0.7 mmol) and Et3N (195 μL, 1.4 mmol) in DMF (5 mL) was heated at 80° C. for 16 h. The solution was cooled, diluted with water, extracted with EtOAc, washed with aq. citric acid and aq. NaHCO3, dried (Na2SO4), filtered, and concentrated in vacuo to afford a residue, which was purified by column chromatography (silica gel, gradient EtOAc in hexanes).

reactant | tert-butyl (3R,5S)-5-methylpiperidin-3-ylcarbamate | 0.7 mmol, 150 mg | C[C@H]1C[C@H](CNC1)NC(OC(C)(C)C)=O | C11H22N2O2
reactant | 4-chloro-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-d]pyrimidine | 0.7 mmol, 200 mg | ClC1=C2C(=NC=N1)N(N=C2)COCC[Si](C)(C)C | C11H17ClN4OSi
reactant | Et3N | 1.4 mmol, 195 μL | CCN(CC)CC | C6H15N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | tert-Butyl (3R,5S)-5-methyl-1-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-d]pyrimidin-4-yl)piperidin-3-ylcarbamate | C[C@H]1C[C@H](CN(C1)C1=C2C(=NC=N1)N(N=C2)COCC[Si](C)(C)C)NC(OC(C)(C)C)=O | C22H38N6O3Si
